US05459131
3-Acetyl-N,N-dimethylbenzenesulfonamide
To a solution of 40.44 g (0.20 mol) of 3-acetylbenzenesulfonyl fluoride in 200 ml of dry tetrahydrofuran is added 20.4 g (0.25 mol) of dimethylamine hydrochloride and 43.6 ml (0.25 mol) of N,N-diisopropylethylamine. The mixture is stirred at room temperature for 48 hours, diluted with 250 ml of 1N HCl and extracted with CH2Cl2. The extract is dried (MgSO4) and the solvent removed. The residue is chromatographed (silica gel column) with CH2Cl2 -hexane (1:1). The fractions containing product are combined, the solvent removed and the residue crystallized from CH2Cl2 -hexane to give 28 g (62%) of white crystals, m.p. 73°-76° C.

reactant | 3-acetylbenzenesulfonyl fluoride | 0.20 mol, 40.44 g | C(C)(=O)C=1C=C(C=CC1)S(=O)(=O)F | C8H7FO3S
reactant | dimethylamine hydrochloride | 0.25 mol, 20.4 g | Cl.CNC
reactant | N,N-diisopropylethylamine | 0.25 mol, 43.6 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | HCl | 1N, 250 ml | Cl | ClH
product | 3-Acetyl-N,N-dimethylbenzenesulfonamide | 28 g, 62% | C(C)(=O)C=1C=C(C=CC1)S(=O)(=O)N(C)C | C10H13NO3S
